US04067976
To a suspension of α-acetamido-p-aminophenylacetic acid (1.04 g, 5 mmol) in water (5 ml) was added 10% NaOH until solution was effected. The solution was diluted with an equal volume of ethanol and then t-butyl isothiocyanate (1.64 g, 15 mmol) in ethanol was added. The reaction was stirred at room temperature overnight and then refluxed 24 hours. The ethanol was evaporated in vacuo and the aqueous phase was acidified and filtered. The aqueous filtrate was extracted with ethyl acetate. The dried extracts were evaporated to give α-acetamido-p-(3-t-butylthioureido)phenylacetic acid.

reactant | α-acetamido-p-aminophenylacetic acid | 5 mmol, 1.04 g | C(C)(=O)NC(C(=O)O)C1=CC=C(C=C1)N | C10H12N2O3
reactant | NaOH | [OH-].[Na+]
reactant | t-butyl isothiocyanate | 15 mmol, 1.64 g | C(C)(C)(C)N=C=S | C5H9NS
solvent | water | 5 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | α-acetamido-p-(3-t-butylthioureido)phenylacetic acid | C(C)(=O)NC(C(=O)O)C1=CC=C(C=C1)NC(=S)NC(C)(C)C | C15H21N3O3S
